* source LAB2_COMMONMODE
V_V1         VIN 0  AC 1
+SIN 0 1 1k 0 0 0
R_R1         VIN N00260  3.3k TC=0,0 
R_R2         VIN N00264  3.3k TC=0,0 
R_R3         0 N00264  46.7k TC=0,0 
R_R4         VOUT N00260  46.7k TC=0,0 
X_U1         N00264 N00260 PLUS15 MINUS15 VOUT TL071/301/TI
V_V2         PLUS15 0 15Vdc
V_V3         0 MINUS15 15Vdc
C_C1         VIN N02459  2.2uF  TC=0,0 
C_C2         N02212 VOUT  220pF  TC=0,0 
R_R5         N02212 VOUT  46.6k TC=0,0 
R_R6         N02459 N02212  3.3k TC=0,0 
X_U2         0 N02212 15PLUS 15MINUS VOUT TL071/301/TI
V_Voltage         Source VIN 0  AC 15
+SIN 0 15 1k 0 0 0
V_V4         15PLUS 0 25Vdc
V_V5         0 15MINUS 25Vdc
